US04613610
4-Fluorobenzoic acid-N'-phenylhydrazide (Compound CXXI)
30 ml. (0.25 mole) of 4-fluorobenzoyl chloride is added dropwise over a 30 minute period to a mixture of 25 ml. (0.25 mole) of phenylhydrazine and 35 ml. (0.25 mole) of triethylamine in 500 ml. of anhydrous diethyl ether stirred at -10° C. under nitrogen. The reaction mixture is allowed to warm to 20°-25° C. and stirred under nitrogen for 3 hours. The obtained solids are collected by filtration, washed with diethyl ether and dissolved in about 600 ml. of methylene chloride. The methylene chloride solution is filtered and evaporated at reduced pressure to near dryness, and n-hexane is added to obtain the crude solid product (26 g.). The crude product is dissolved in tetrahydrofuran and filtered to remove the triethylamine hydrochloride, the tetrahydrofuran is evaporated at reduced pressure, and the obtained product is recrystallized from acetone (12 g.), m.p. 181°-186° C. A second crop is also obtained (6 g.).

reactant | 4-fluorobenzoyl chloride | 0.25 mole | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | phenylhydrazine | 0.25 mole | C1(=CC=CC=C1)NN | C6H8N2
reactant | triethylamine | 0.25 mole | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Fluorobenzoic acid-N'-phenylhydrazide | C1(=CC=CC=C1)NNC(C1=CC=C(C=C1)F)=O | C13H11FN2O
